 
* CMOS Inverter

.include ./t14y_tsmc_025_level3.txt
* m_instance_name drain_node gate_node source_node bulk_substrate_node model_name L=length W=width

m_load vout vin vdd v_dd cmosp l=0.5u w=10u
m_driver vout vin 0 0 cmosn l=0.5u w=10u

v_dd vdd 0 5
v_test vtest vout 0
v_in vin 0 PULSE(0 5 0 0 0 2n 4n)

.control

	*foreach width 1u 32u 100u
		*alter @m_load[w] = $width
		*dc v_in 0 5 0.01
		*tran 1p 10n
	*end

	*foreach width 0.1u 3.3u 20u
		*alter @m_driver[w] = $width
		*dc v_in 0 5 0.01
		*tran 1p 10n
	*end 

	*foreach length 1u 10u 20u
		*alter @m_load[l] = $length
		*dc v_in 0 5 0.01
		*tran 1p 10n
	*end

	foreach length 0.1u 2.5u 20u
		alter @m_driver[l] = $length
		dc v_in 0 5 0.01
		tran 1p 10n
	end


	foreach iter 1 2 3  
	
		setplot dc$iter
		plot vout
		*hardcopy images/w_load_$iter vout
	
	
		setplot tran$iter
		plot vout, vin
		*hardcopy images/w_load_current$iter vout, vin
		plot 5*v_dd#branch
		*hardcopy images/w_load_power$iter 5*v_dd#branch
	
		meas tran$iter vmax MAX vout from=2.4n to =3.8n
		meas tran$iter vmin MIN vout from=0.4n to =1.8n

		let v_10 =vmin+ 0.1*(vmax-vmin)
		let v_90 =vmin+ 0.9*(vmax-vmin)
		let v_50 =vmin+ 0.5*(vmax-vmin)

		meas tran$iter trise trig vout val=v_10 rise=1 targ vout val=v_90 rise=1
		meas tran$iter tfall trig vout val=v_90 fall=2 targ vout val=v_10 fall=2

		meas tran$iter tphl trig vin val=2.5 rise=2 targ vout val=v_50 fall=2
		meas tran$iter tplh trig vin val=2.5 fall=2 targ vout val=v_50 rise=2
        
		let pd=(tphl+tplh)*0.5
		print pd
		meas tran$iter Iavg AVG v_dd#branch from=0.1n to=4n
		let Pavg=-5*Iavg
		print Pavg
	end
	
.endc
.end
